US04277394
(I) Production of Z-Phe-NHNH-CO-CH3
In 50 ml of THF is dissolved 2.0 g of Z-Phe-NHNH2, followed by adding 1.4 ml of anhydrous acetic acid and 0.9 ml of TEA under ice-cooling, and the mixture is stirred for 2 hours at room temperature. The precipitated crystals are collected by filtration, washed well with diethyl ether and recrystallized from ethyl acetate to give 1.9 g of crystals, m.p. 205°-206° C., [α]D23 -16.4° (c=0.50, DMF), Rf1 =0.60.

reactant | Z-Phe-NHNH2 | 2.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C17H19N3O3
reactant | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Z-Phe-NHNH-CO-CH3 | 1.9 g | N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C(=O)OCC1=CC=CC=C1 | C19H21N3O4
